US07323522B2
Into a four-necked flask equipped with a thermometer, a stirring device, a condenser and a temperature controller, 198 parts by weight of cyclohexane-1,3,4-tricarboxylic 3,4-anhydride and 300 parts by weight of n-propyl alcohol were charged and allowed to react at 100° C. for 3 h. After the reaction, the excess n-propyl alcohol was distilled off under reduced pressure to obtain monopropyl ester of cyclohexane-1,3,4-tricarboxylic acid as a colorless and transparent liquid. The product was identified by confirming the disappearance of the characteristic absorption of acid anhydride group (1850 and 1790 cm−1) and the appearance of the characteristic absorption of ester group (1735 cm−1) on infrared absorption spectra, and by determining the molecular weight using a gas chromatograph-mass spectrometer.

reactant | cyclohexane-1,3,4-tricarboxylic 3,4-anhydride | C1(CC2C(CC1)C(=O)OC2=O)C(=O)O | C9H10O5
reactant | n-propyl alcohol | C(CC)O | C3H8O
product | cyclohexane-1,3,4-tricarboxylic acid | C1(CC(C(CC1)C(=O)O)C(=O)O)C(=O)O | C9H12O6
